US08791132B2
To a stirred solution of 10-chloro-2,3,5,6,7,11c-hexahydro-1H-indolizino[7,8-b]indole (1.0 g, 4.06 mmol) in DMF (50 mL) was added sodium hydride (60%, 406 mg, 10.15 mmol). After stirring for 10 min., 3-(2-methyloxiran-2-yl)pyridine (823 mg, 6.09 mmol) was added to the reaction mixture, which was stirred at RT for 16 h. The progress of reaction was monitored by TLC and LCMS. The reaction mixture was quenched with ice-water and extracted with EtOAc (2×100 mL). The organic layer was washed with water (5×100 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain the residue that was crystallized with ethanol-hexane to yield the 1.2 g of 1-(10-chloro-2,3,5,6-tetrahydro-1H-indolizino[7,8-b]indol-7(11cH)-yl)-2-(pyridin-3-yl)propan-2-ol. 1H NMR (CDCl3, freebase) δ (ppm): 8.70 (s, 1H), 8.49 (d, 1H), 7.62 (d, 1H), 7.36 (s, 1H), 7.12 (m, 2H), 7.02 (d, 1H), 4.17 (q, 2H), 3.86 (t, 1H), 3.19 (m, 1H), 2.86 (m, 1H), 2.74 (m, 3H), 2.41 (m, 2H), 1.85 (m, 3H), 1.7 (s, 3H). Separation by chiral HPLC provides diastereomers II-130a-d.

reactant | 10-chloro-2,3,5,6,7,11c-hexahydro-1H-indolizino[7,8-b]indole | 4.06 mmol, 1.0 g | ClC1=CC=2C3=C(NC2C=C1)CCN1CCCC13 | C14H15ClN2
reactant | sodium hydride | 10.15 mmol, 406 mg | [H-].[Na+]
reactant | 3-(2-methyloxiran-2-yl)pyridine | 6.09 mmol, 823 mg | CC1(OC1)C=1C=NC=CC1 | C8H9NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-(10-chloro-2,3,5,6-tetrahydro-1H-indolizino[7,8-b]indol-7(11cH)-yl)-2-(pyridin-3-yl)propan-2-ol | 1.2 g | ClC1=CC=2C3=C(N(C2C=C1)CC(C)(O)C=1C=NC=CC1)CCN1CCCC13 | C22H24ClN3O
